US07595327B2
According to the procedure of Example 17, Step 3, the reaction of 320.4 mg of tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride with ethyl formate provided 191 mg (61% yield) of tert-butyl cis-1-formyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate. MS: 526.2(M+H)+

reactant | tert-butyl cis-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate hydrochloride | 320.4 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CNC1)C(=O)OC(C)(C)C
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | tert-butyl cis-1-formyl-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylate | 191 mg, 61% yield | C(=O)N1C[C@H]([C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C27H31N3O6S
